### PR TITLE
Remove duplicates from sorted list

### PR DESCRIPTION
**Pull request by Nielius**
Main points:

* introduce an inductive predicate `is_strictly_sorted`: a list is strictly sorted if every element in the list is strictly smaller than (so not equal to) the next. Equivalently: it's a sorted list without duplicates.

* write a verified decision procedure that takes a sorted list and removes all its duplicates (i.e., it returns a strictly sorted list whose set of elements is equal to the set of elements of the list that we put in).

### CODE REVIEW

File: src/dup.v [hunk 1]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+  Context {A: Type}.
+  Context {cmp: comparable A}.
+
+  (* HELP WANTED: isn't there some library that more or less does this?
+   The ones I found don't seem to have a notation of equality of sets. *)
+  Definition list_set_eq (xs ys : list A): Prop :=
+    forall (a : A), (In a xs) <-> (In a ys).
+
+  Hint Unfold list_set_eq: list_set_db.
+  Hint Extern 0 (_ <-> _) => split : list_set_db.
```
Comment (awalterschulze) [inline src/dup.v:134]: What does Hint Extern mean, this might be worth a comment?

File: src/dup.v [hunk 2]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+  Proof.
+    auto with list_set_db.
+  Qed.
+
+  Hint Resolve list_set_eq_refl: list_set_db.
+
+  Lemma list_set_eq_symm (xs ys: list A):
+    list_set_eq xs ys <-> list_set_eq ys xs.
+  Proof.
+    (* QUESTION: why can't auto do this? *)
```
Comment (awalterschulze) [inline src/dup.v:147]: Questions can also be a TODO: Help Wanted

File: src/dup.v [hunk 3]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+    list.
+
+    To fully specify this in the type system, we first define list_set_eq, which
+    is a type that represents the proposition that two lists are equal as sets
+    (i.e., they have exactly the same elements).
+  *)
+  Context {A: Type}.
+  Context {cmp: comparable A}.
+
+  (* HELP WANTED: isn't there some library that more or less does this?
```
[the remark this answers is not in the document]
Comment (awalterschulze) [reply src/dup.v:128]: This question might also be worth posting on Stack Overflow, since it is so well contained

File: src/dup.v [hunk 4]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+      intro H;
+      unfold list_set_eq in *;
+      intro;
+      split; apply H.
+  Qed.
+
+  Lemma list_set_eq_step (a : A) (xs: list A):
+    list_set_eq (a::xs) (a::(a::xs)).
+  Proof.
+    autounfold with list_set_db.
```
Comment (awalterschulze) [inline src/dup.v:158]: What is autounfold, very interesting.

File: src/dup.v (hunk 2 above)
Comment (awalterschulze) [reply src/dup.v:147]: I assume you have tried auto 10

File: src/dup.v [hunk 5]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+    -> list_set_eq ys zs
+    -> list_set_eq xs zs.
+  Proof.
+    intros.
+    unfold list_set_eq in *.
+    intro.
+    split.
+    - intro.
+      auto using H, H0 with list_set_db.
+      (* QUESTION: how can the above auto statement fail to just apply the hints
```
Comment (awalterschulze) [inline src/dup.v:186]: Good question
TODO: Help Wanted?

File: src/dup.v [hunk 6]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+    To fully specify this in the type system, we first define list_set_eq, which
+    is a type that represents the proposition that two lists are equal as sets
+    (i.e., they have exactly the same elements).
+  *)
+  Context {A: Type}.
+  Context {cmp: comparable A}.
+
+  (* HELP WANTED: isn't there some library that more or less does this?
+   The ones I found don't seem to have a notation of equality of sets. *)
+  Definition list_set_eq (xs ys : list A): Prop :=
```
Comment (awalterschulze) [inline src/dup.v:130]: This might be reusable in a file list_set.v

File: src/dup.v [hunk 7]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+      + subst. cbn. right.
+        apply H. assumption.
+  Qed.
+
+  (* A verified decision procedure to remove all duplicate elements from a list
+   that is sorted. The type tells you: given an input list ls, it returns a
+   strictly sorted list (hence, without any duplicates) that is equal to the
+   original list ls as set. *)
+  Definition remove_duplicates_from_sorted: forall (ls : list A),
+    is_sorted ls -> { lres : list A | is_strictly_sorted lres & list_set_eq ls lres }.
```
Comment (awalterschulze) [inline src/dup.v:222]: Is `&` not supposed to by `/\`, I didn't know we could use `&`?

File: src/dup.v [hunk 8]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+    intros ls0 Hsort0.
+
+    refine
+      ((fix F (ls : list A) (Hsort : is_sorted ls) :
+          { lres : list A | is_strictly_sorted lres & list_set_eq ls lres } :=
+          let
+            restype := ({ lres : list A | is_strictly_sorted lres & list_set_eq ls lres })
```
Comment (awalterschulze) [inline src/dup.v:229]: Oh very nice short hand.

File: src/dup.v [hunk 9]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+          in
+          match ls as l return ((ls = l) -> restype) with
+          | nil =>
+            (fun H => (exist2 _ _ (* these two arguments are the propositions on A; they are not implicit
```
Comment (awalterschulze) [inline src/dup.v:233]: With propositions do you mean is_sorted (list A)?

File: src/dup.v [hunk 10]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+                                  arguments, but I think Coq can infer it from the context*)
+                              nil (* the actual element *)
+                              empty_strictly_sorted (* proof for the first proposition (strictly sorted) *)
+                              _ (* proof for the second proposition (equal as lists) *)
+            ))
+          | (x :: ls') =>
```
Comment (awalterschulze) [inline src/dup.v:239]: Nice naming convention from haskell is `(x :: xs)`, `(y :: ys)`, etc.
Just an idea, not an issue.

File: src/dup.v [hunk 11]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+    - (* Case Gt, proof of contradiction *)
+      subst.
+      remember (first_two_of_is_sorted_are_sorted Hsort).
+      contradiction_from_compares.
+  Qed.
+
+  (* A convenience function that extracts the list from the above sigma type. *)
+  Definition remove_duplicates_from_sorted_list (ls : list A) (Hsort: is_sorted ls): list A
+    := (proj1_sig (sig_of_sig2 (remove_duplicates_from_sorted Hsort))).
+End remove_duplicates_from_sorted.
```
Comment (awalterschulze) [inline src/dup.v:319]: This is proof ... wow

It might be worth pulling out some of these subgoals into theorems of their own, just to aid readability.

Especially the one you say is hard to proof in Coq.

File: src/smart_or.v [hunk 12]
```diff
@@ -482,8 +482,13 @@ Qed.
   (r + s) + t = r + (s + t)
   r + fail = r
 *)
-Definition smart_or' {A: Type} {cmp: comparable A} (r s: regex A) : regex A :=
-  to_tree_or (remove_duplicates_from_sorted (fold_left insert_sort (to_list_or r) (to_list_or s))).
+(*
+  I've commented this definition out, because it now requires a proof that the
```
Comment (awalterschulze) [inline src/smart_or.v:486]: Maybe add a TODO: Help wanted, with this explanation and the Definition, all in one commet

File: src/sort.v [hunk 13]
```diff
@@ -138,12 +138,13 @@ Qed.
    into two hypotheses
          x = y     and     xs = ys
 *)
-Local Ltac destruct_list_equality :=
+(* TODO: should this be moved somewhere else? Maybe make a library of tactics?
```
Comment (awalterschulze) [inline src/sort.v:141]: TODO: Good First Issue
move this to a library list.v

File: src/dup.v [hunk 14]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
 Set Asymmetric Patterns.
 
 Require Import List.
+Import ListNotations.
 
 Require Import comparable.
 Require Import sort.
 
-(* remove_duplicates_from_sorted removes duplicates from a sorted list *)
-Fixpoint remove_duplicates_from_sorted {A: Type} {cmp: comparable A} (xs: list A): list A :=
```
[the remark this answers is not in the document]
Comment (Nielius) [reply src/dup.v:10]: Yes, good point. I've put it back, together with a (unproven) lemma that it does the same thing.

File: src/dup.v [hunk 15]
```diff
@@ -2,33 +2,318 @@ Set Implicit Arguments.
...
+  Proof.
+    induction ls.
+    - constructor.
+    - extract_info_from_strictly_sorted.
+      + constructor.
+      + constructor. right. assumption.
+        apply IHls. assumption.
+  Qed.
+
+  Local Ltac is_strictly_sorted_contradiction_via_tail :=
```
[the remark this answers is not in the document]
Comment (Nielius) [reply src/dup.v:59]: Yeah, I think that is actually a very good point. Usually the types will tell you what something does, but here all you can go by is the name.

File: src/dup.v (hunk 1 above)
Comment (Nielius) [reply src/dup.v:134]: Added.

File: src/dup.v (hunk 3 above)
[the remark this answers is not in the document]
Comment (Nielius) [reply src/dup.v:128]: I've changed the format of the comment.

File: src/dup.v (hunk 2 above)
Comment (Nielius) [reply src/dup.v:147]: Yeah, I've even tried `auto 20` :p. But also strangely enough, that finishes very quickly.

I'm not sure what is the best way to "debug" auto. These are the things I've tried:

`debug auto` returns

```
(* debug auto: *)
* assumption. (*fail*)
* intro. (*fail*)
```

I also did `Print Hint` and `Print HintDb list_set_db` and if I understand the output correctly, it says that none of the hints in the databases are applicable.

Anyway, I did find something that does work: you can just do `easy`!

File: src/dup.v (hunk 4 above)
Comment (Nielius) [reply src/dup.v:158]: I've added this comment:

```
(* From the manual: "This tactic unfolds constants that were declared through a
   Hint Unfold in the given databases."
   https://coq.inria.fr/distrib/current/refman/proof-engine/tactics.html#coq:tacn.autounfold

   In this case, I wanted to unfold list_set_eq. (We did `Hint Unfold list_set_eq:
   list_set_db.` before.)
 *)
```

File: src/dup.v (hunk 7 above)
Comment (Nielius) [reply src/dup.v:222]: Yeah, I can see how that is confusing. But it works very differently: it's actually part of a special notation for `sig2`:

```
Inductive sig2 (A : Type) (P Q : A -> Prop) : Type :=
    exist2 : forall x : A, P x -> Q x -> {x : A | P x & Q x}
```

With ` Locate "{ _ | _ & _ }".` (I just found out; I didn't actually know you could do holes `_` in a `Locate` command), you can find:

```
Notation
"{ x  |  P  & Q }" := sig2 (fun x => P) (fun x => Q) : type_scope
```

You could achieve the same thing as `sig2` by using `sig` and then using `/\`, as you mentioned, but I think this is a bit easier to work with.

But I do find it a bit surprising (and maybe ad-hoc/unprincipled) that they've included this into the standard library.
And what are you going to do when you want 3 propositions?

File: src/dup.v (hunk 9 above)
Comment (Nielius) [reply src/dup.v:233]: Oh yeah, `propositions on A` is not what I intended to say. I've now clarified it a bit:

``` coq
(fun H => (exist2 _ _ (* These two holes correspond to the two propositions about (ls : list A)
                                     that are part of the sigma type: the first proposition is is_strictly_sorted,
                                     the second is the list_eq.
                                     Even though they are not implicit arguments, Coq can infer them
                                     from the context. *)
                              nil (* the actual element *)
                              empty_strictly_sorted (* proof for the first proposition (strictly sorted) *)
                              _ (* proof for the second proposition (equal as lists) *)
            ))
```

(I don't know why, but the whitespacing is different here than in the code.)

File: src/dup.v (hunk 10 above)
Comment (Nielius) [reply src/dup.v:239]: Yeah, I was using that naming convention when we were still using `{X: Type}` rather than `{A: Type}` :p. When we switched, I wasn't sure if I should be using e.g. `(a :: as)`.

But if always using `(x :: xs)` is an established convention, then I'm happy to use that.

File: src/smart_or.v (hunk 12 above)
Comment (Nielius) [reply src/smart_or.v:486]: Done.

File: src/sort.v (hunk 13 above)
Comment (Nielius) [reply src/sort.v:141]: Done.

File: src/dup.v (hunk 11 above)
Comment (Nielius) [reply src/dup.v:319]: Yeah, I actually thought about that, but then wasn't sure if those lemmas wouldn't be quite weird (assuming very weird hypotheses, just to fit into this one case).

But I didn't actually try it yet, so it may not be so bad. I'll try it out.

Comment (Nielius) [reply src/dup.v:289]: I've turned most of the difficult case into a separate lemma, which worked out ok, I think.

File: src/dup.v (hunk 10 above)
Comment (awalterschulze) [reply src/dup.v:188]: Yes, the x :: xs made me make the initial choice of {X : Type}
But the convention from haskell is
`a` for types and `x` for values.
Here we have capital letters, so we had the choice of `X` for type, but the `A` still seems more natural some how.

So yes convention is `x` for values and `A` for types.
At least that is the current decision, it seems.

File: src/dup.v (hunk 2 above)
Comment (awalterschulze) [reply src/dup.v]: Oh wow that is amazing

File: src/dup.v (hunk 7 above)
Comment (awalterschulze) [reply src/dup.v:168]: Since this is a noob repo, it might be good to include this as a comment.
Aids readability, but also surprising and possibly uncomposable.
